US05093525
A solution of m-ethylphenylcyanamide (730 mg, 2.99 mmol) and 1-naphthylamine hydrochloride (900 mg, 5.05 mmol) in chlorobenzene (20 ml) was heated at 140°-145° C. for 12 hours. It was allowed to cool to room temperature, concentrated and the residue was partitioned between dichloromethane and 10% NaOH solution. The organic layer was concentrated and the resulting residue was recrystallized from abs. EtOH-H2O to give N-(1-naphthyl)-N'-(m-ethylphenyl)guanidine (55 mg, 4%) as off-white needles. mp 96°-98° C.

reactant | m-ethylphenylcyanamide | 2.99 mmol, 730 mg | C(C)C=1C=C(C=CC1)NC#N | C9H10N2
reactant | 1-naphthylamine hydrochloride | 5.05 mmol, 900 mg | Cl.C1(=CC=CC2=CC=CC=C12)N
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(1-naphthyl)-N'-(m-ethylphenyl)guanidine | 55 mg, 4% | C1(=CC=CC2=CC=CC=C12)NC(=N)NC1=CC(=CC=C1)CC | C19H19N3
